US06153652
Synthesis of N-[(3-nitrophenyl)acetyl]-L-alanine iso-butyl ester
Following General Procedure H' above and using 3-nitrophenylacetic acid (Aldrich) and L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by recrystallization from butyl chloride.

reactant | 3-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O
product | N-[(3-nitrophenyl)acetyl]-L-alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)C)=O | C15H20N2O5
